US05444065
N2,N2,N4 -Tris(phenylmethyl)-5,6,7,8-tetrahydroquinolin-2,3,4-triamine
Sodium borohydride (0.82 g, 22 mmole) was added to a solution of nickel(II) chloride hydrate (1.43 g, 6 mmole) in methanol (300 mL). The addition caused a black solid to form along with gas evolution. The resulting heterogeneous mixture was stirred at ambient temperature for about 30 minutes. A solution containing N2,N2,N4 -Tris(phenylmethyl)-5,6,7,8-tetrahydro-3-nitroquinolin-2,4-diamine (5.73 g, 12 mmole) in methylene chloride (20 mL) was added followed by 5 successive additions of sodium borohydride (0.38 g, 10 mmole each addition). The reaction mixture was stirred at ambient temperature for about 15 minutes then filtered through a layer of silica gel. The filtrate was evaporated. The residue was taken up in a minimum amount of methylene chloride then placed on a layer of silica gel. The silica gel was eluted with hexane:ethyl acetate 80:20. The organic phase was collected then evaporated to provide 5.0 g of the desired product as a green oil.

reactant | Sodium borohydride | 22 mmole, 0.82 g | [BH4-].[Na+]
reactant | N2,N2,N4 -Tris(phenylmethyl)-5,6,7,8-tetrahydro-3-nitroquinolin-2,4-diamine | 12 mmole, 5.73 g | C1(=CC=CC=C1)CN(C1=NC=2CCCCC2C(=C1[N+](=O)[O-])NCC1=CC=CC=C1)CC1=CC=CC=C1 | C30H30N4O2
reactant | sodium borohydride | 10 mmole, 0.38 g | [BH4-].[Na+]
solvent | methanol | 300 mL | CO | CH4O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | nickel(II) chloride hydrate | 6 mmole, 1.43 g | O.[Ni](Cl)Cl
product | N2,N2,N4 -Tris(phenylmethyl)-5,6,7,8-tetrahydroquinolin-2,3,4-triamine | 5.0 g | C1(=CC=CC=C1)CN(C1=NC=2CCCCC2C(=C1N)NCC1=CC=CC=C1)CC1=CC=CC=C1 | C30H32N4
